US06346527B1
A mixture of ethyl 2,3-dihydro-9-iodo-1-benzoxepin-4-carboxylate (1.00 g), trifluoroacetic acid, sodium salt (1.58 g), and copper(I) iodide (1.11 g) in 1-methyl-2-pyrrolidinone (10 ml) was stirred at 160° C. under nitrogen atmosphere for 6 hours and partitioned between ethyl acetate and 1N hydrochloric acid. The aqueous layer was extracted twice with ethyl acetate. The combined organic layer was washed successively with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture of n-hexane and ethyl acetate (4:1) to give ethyl 2,3-dihydro-9-trifluoromethyl-1-benzoxepin-4-carboxylate (0.93 g).

reactant | ethyl 2,3-dihydro-9-iodo-1-benzoxepin-4-carboxylate | 1.00 g | IC1=CC=CC=2C=C(CCOC21)C(=O)OCC | C13H13IO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium | 1.58 g | [Na] | Na
solvent | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper(I) iodide | 1.11 g | [Cu]I
product | ethyl 2,3-dihydro-9-trifluoromethyl-1-benzoxepin-4-carboxylate | 0.93 g | FC(C1=CC=CC=2C=C(CCOC21)C(=O)OCC)(F)F | C14H13F3O3
